US07067517B2
Methyl-phenyl-carbamic acid 4-(4-fluoro-phenyl)-5-(4-methoxy-phenyl)-3-(4-methylphenyl)-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-4-(4-fluorophenyl)-5-(4-methoxyphenyl)-3-(4-methylphenyl)pyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (11%, crystals).

reactant | 1-hydroxy-4-(4-fluorophenyl)-5-(4-methoxyphenyl)-3-(4-methylphenyl)pyrazole | ON1N=C(C(=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F)C1=CC=C(C=C1)C | C23H19FN2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(4-fluoro-phenyl)-5-(4-methoxy-phenyl)-3-(4-methylphenyl)-pyrazol-1-yl ester | FC1=CC=C(C=C1)C=1C(=NN(C1C1=CC=C(C=C1)OC)OC(N(C1=CC=CC=C1)C)=O)C1=CC=C(C=C1)C | C31H26FN3O3
